Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
 ___ with hx ___ and latent TB on rifampin presenting with 
fever, malaise w/ hx of latent TB on rifampin x1 month who 
presented with fever and malaise x1 week, and L cervical neck 
pain and swelling x3 days. 

Pt reports that she felt entirely well until ___, when she 
went to a water park in ___. While at the water park, she 
noted feeling very tired. Over the course of about 15 mins, she 
developed shortness of breath; she sat down on the ground, and 
her husband brought her a cup of water. Symptoms abated. Later 
that evening, she developed a bilateral, temporal headache, 
pounding, without associated nausea. She took 2 dayquil tabs, 
with improvement in her syptmoms. On ___, she developed 
recurrent symptoms, again took Nyquil. Symptoms persisted, with 
intermittent fevers, chills, rigors (?), and generalized sense 
of weakness. On ___, she noted slight fullness and 
tenderness at L submandibular region. Intermittent fevers and 
chills persisted, relieved by Tylenol or Dayquil, but then 
recurred, with progressive edema of L submandibular region. 
Although she has had associated nausea, she has had no dysphagia 
or odynophagia. She notes a very mild cough, which she describes 
as a tickle in her throat.

Headaches are described tightness, pulsing, ___, bilateral 
temporal region. She endorsed associated nausea only with PO 
intake, without emesis. She denies chest pain, abdominal pain, 
diarrhea, constipation, dysuria, hematuria, hematochezia. She 
notes dark BMs in setting of taking iron. Notably, only pet at 
home are fish. ___ years ago, her son brought home a kitten; she 
insisted that the cat lives outside. For a couple of years the 
cat did not return. ___ months prior to current presentation, 
the cat returned to their house; pt is certain that she never 
touched it, and therefore was never scratched. Last travel was 
to ___ in ___. She did receive BCG vaccination. 

Pt also notes that, 2 days prior to onset of symptoms, she bit 
the inside of her L upper lip while eating, which evolved into 
an ulceration which has not healed. She visits the dentist every 
6 months for regular cleanings, last visit was 6 months ago. She 
denies dental or ear pain. She denies cough, weight loss, 
drenching sweats. 

With respect to ___, she describes heavy periods, requiring pads 
layered with additional bunched toilet paper, changed every time 
she urinates, lasting 5 days. 

She initially presented to urgent care clinic with above 
symptoms, and was prescribed azithromycin, which she took x2 
days without improvement in sxs. She describes taking rifampin 
daily as prescribed, without missed doses.

Given persistent symptoms, she presented to ___ for 
further care. CT neck/chest raised concern for bacterial vs TB L 
submandibular adenitis, and ID advised transfer to ___ ___.

In the ___ ___: VS 99.2, 82, 130/83, 98% RA Exam notable for: 
Gen: Tired appearing woman, seen sitting comfortably Pulm: CTAB 
no WRR, unlabored breathing CV: RRR no MRG HEENT: Dry mucous 
membranes, PERRLA, EOMI, no scleral icterus no tongue deviation 
or elevation Neck: Firm submandibular mass that is exquisitely 
tender to palpation no crepitus mild soft tissue changes with 
darkening

Labs notable for: WBC 6.9, Hb 11.7, Plt 200 INR 0.97 BUN 9 Cr 
0.4 ALT 76, AST 68, Alk phos 53, Tbili 0.3 Influenza negative 
HIV neg HBsAg negative HBsAb positive HBcAb negative HAV IgM 
negative HCV Ab negative INR 1.1 Lactate 0.7

Imaging: CT neck second read with necrotic L submandibular and 
cervical LNs

Consults: Discussed with ID - per ___ dash, recommended AFB 
culture and stain, culture, path/cytology, and defer empiric TB 
treatment ___ - will attempt US guided sampling over the weekend, 
does not require NPO - if nondiagnostic, next step would be 
excisional biopsy

Received: IVF Tylenol

On arrival to the floor, she describes ___ pain at L neck. She 
denies nausea. 

ROS: 10 point review of system reviewed and negative except as 
otherwise described in HPI 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ with hx ___ and latent TB on rifampin presenting with 
fever, malaise w/ hx of latent TB on rifampin x1 month who 
presented with fever and malaise x1 week, and L cervical neck 
pain and swelling x3 days. 

Pt reports that she felt entirely well until ___, when she 
went to a water park in ___. While at the ___ park, she 
noted feeling very tired. Over the course of about 15 mins, she 
developed shortness of breath; she sat down on the ground, and 
her husband brought her a cup of water. Symptoms abated. Later 
that evening, she developed a bilateral, temporal headache, 
pounding, without associated nausea. She took 2 dayquil tabs, 
with improvement in her syptmoms. On ___, she developed 
recurrent symptoms, again took Nyquil. Symptoms persisted, with 
intermittent fevers, chills, rigors (?), and generalized sense 
of weakness. On ___, she noted slight fullness and 
tenderness at L submandibular region. Intermittent fevers and 
chills persisted, relieved by Tylenol or Dayquil, but then 
recurred, with progressive edema of L submandibular region. 
Although she has had associated nausea, she has had no dysphagia 
or odynophagia. She notes a very mild cough, which she describes 
as a tickle in her throat.

Headaches are described tightness, pulsing, ___, bilateral 
temporal region. She endorsed associated nausea only with PO 
intake, without emesis. She denies chest pain, abdominal pain, 
diarrhea, constipation, dysuria, hematuria, hematochezia. She 
notes dark BMs in setting of taking iron. Notably, only pet at 
home are fish. ___ years ago, her son brought home a kitten; she 
insisted that the cat lives outside. For a couple of years the 
cat did not return. ___ months prior to current presentation, 
the cat returned to their house; pt is certain that she never 
touched it, and therefore was never scratched. Last travel was 
to ___ in ___. She did receive BCG vaccination. 

Pt also notes that, 2 days prior to onset of symptoms, she bit 
the inside of her L upper lip while eating, which evolved into 
an ulceration which has not healed. She visits the dentist every 
6 months for regular cleanings, last visit was 6 months ago. She 
denies dental or ear pain. She denies cough, weight loss, 
drenching sweats. 

With respect to ___, she describes heavy periods, requiring pads 
layered with additional bunched toilet paper, changed every time 
she urinates, lasting 5 days. 

She initially presented to urgent care clinic with above 
symptoms, and was prescribed azithromycin, which she took x2 
days without improvement in sxs. She describes taking rifampin 
daily as prescribed, without missed doses.

Given persistent symptoms, she presented to ___ for 
further care. CT neck/chest raised concern for bacterial vs TB L 
submandibular adenitis, and ID advised transfer to ___ ___.

In the ___ ___: VS 99.2, 82, 130/83, 98% RA Exam notable for: 
Gen: Tired appearing woman, seen sitting comfortably Pulm: CTAB 
no WRR, unlabored breathing CV: RRR no MRG HEENT: Dry mucous 
membranes, PERRLA, EOMI, no scleral icterus no tongue deviation 
or elevation Neck: Firm submandibular mass that is exquisitely 
tender to palpation no crepitus mild soft tissue changes with 
darkening

Labs notable for: WBC 6.9, Hb 11.7, Plt 200 INR 0.97 BUN 9 Cr 
0.4 ALT 76, AST 68, Alk phos 53, Tbili 0.3 Influenza negative 
HIV neg HBsAg negative HBsAb positive HBcAb negative HAV IgM 
negative HCV Ab negative INR 1.1 Lactate 0.7

Imaging: CT neck second read with necrotic L submandibular and 
cervical LNs

Consults: Discussed with ID - per ___ dash, recommended AFB 
culture and stain, culture, path/cytology, and defer empiric TB 
treatment ___ - will attempt US guided sampling over the weekend, 
does not require NPO - if nondiagnostic, next step would be 
excisional biopsy

Received: IVF Tylenol

On arrival to the floor, she describes ___ pain at L neck. She 
denies nausea. 

ROS: 10 point review of system reviewed and negative except as 
otherwise described in HPI 
 
Past Medical History:
LTBI - On rifampin, as per HPI
?Pericardial stripping - Pt describes that she previously had a 
problem with rapid heart rate and syncope in ___, with 3 
total episodes - only episode in the ___ happened at ___ - she 
describes fibrotic pericardium, and pericardial stripping
 
Social History:
___
Family History:
Mother has DM2
Father is in good health
Maternal aunt with breast cancer (___)
Maternal aunt endometrial cancer (___) - Both aunts died at age 
___ years apart
Uncle has colon cancer (now in his ___
 
Physical Exam:
VS 99.2, 82, 130/83, 98% RA
Exam notable for: 
Gen: Tired appearing woman, seen sitting comfortably
Pulm: CTAB no WRR, unlabored breathing
CV: RRR no MRG
HEENT: Dry mucous membranes, PERRLA, EOMI, no scleral icterus no
tongue deviation or elevation
Neck: Firm submandibular mass that is exquisitely tender to
palpation no crepitus mild soft tissue changes with darkening

Patient examined on day of discharge (refer to progress note)
 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS: 
=======================
___ 12:26AM BLOOD WBC-3.1* RBC-3.88* Hgb-10.8* Hct-35.2 
MCV-91 MCH-27.8 MCHC-30.7* RDW-15.7* RDWSD-52.2* Plt ___
___ 12:26AM BLOOD Neuts-60.4 ___ Monos-12.9 Eos-2.6 
Baso-0.3 Im ___ AbsNeut-1.88 AbsLymp-0.73* AbsMono-0.40 
AbsEos-0.08 AbsBaso-0.01
___ 12:26AM BLOOD Glucose-96 UreaN-6 Creat-0.4 Na-134* 
K-3.9 Cl-104 HCO3-20* AnGap-10
___ 06:15AM BLOOD ALT-60* AST-38 LD(___)-216 AlkPhos-50 
TotBili-<0.2

MICRO: 
=====
___ 06:15AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG IgM HAV-NEG
___ 06:15AM BLOOD HIV Ab-NEG
___ 06:15AM BLOOD HCV Ab-NEG

IMAGING/OTHER STUDIES: 
====================
CT soft tissue neck w con 
CONCLUSION: 1. Pathologic left submandibular lymph nodes; 
including one node 15 x 11 x 10 mm showing necrosis, suggesting 
either suppurative adenitis or tuberculous adenitis/scrofula. 
Consider aspiration. Some edema around these nodes and the 
submandibular gland but no definite submandibular glandular 
abnormality. 2. Additional smaller left-sided neck lymph nodes, 
also right submandibular and right internal jugular chain lymph 
nodes, generally smaller and fewer in number than on the left. 
3. Right maxillary retention cyst or polyp. Small calcified 
Right tonsilloliths.

LABS ON DISCHARGE: 
================
___ 07:33AM BLOOD WBC-2.8* RBC-3.91 Hgb-10.9* Hct-34.0 
MCV-87 MCH-27.9 MCHC-32.1 RDW-15.3 RDWSD-49.2* Plt ___
___ 07:33AM BLOOD Glucose-100 UreaN-13 Creat-0.5 Na-142 
K-4.2 Cl-106 HCO3-23 AnGap-13
___ 07:33AM BLOOD ALT-66* AST-50* LD(LDH)-212 AlkPhos-57 
TotBili-<0.___ with hx of latent TB on rifampin x1 mo presents with several 
days of fatigue and progressive left submandibular swelling with 
CT raising concern for bacterial versus TB adenitis. 

# Adenitis: 
The patient developed fatigue and malaise approximately one week 
ago along with subjective fevers in chills followed by 
progressive L mandibular neck pain and swelling that worsened 
despite empiric azithromycin for presumed bacterial adenitis. 
She was then referred to the ___ by her PCP, where CT neck 
demonstrated "Pathologic left submandibular lymph nodes; 
including one node 15 x 11 x 10 mm showing necrosis, suggesting 
either suppurative adenitis or tuberculous adenitis/scrofula." 
CT chest obtained with no evidence of pulmonary TB and the 
patient had no recent pulmonary symptoms. She was subsequently 
transferred to ___ for evaluation by ID team and likely 
___ FNA of the submandibular lesion. ID was consulted and 
recommended holding further antibiotics (including rifampin for 
LTBI) and pursuing FNA-guided biopsy with the following studies 
sent:  AFB smear/cx, bacterial cx, fungal cx, MTB-PCR, cytology, 
pathology. An ___ consult was placed for FNA. The patient then 
decided that she wanted to be discharged in order to attend her 
daughter's graduation. Despite recommendation to stay for 
inpatient expedited evaluation, she demonstrated capacity and 
elected to be discharged, with full understanding of the risk of 
worsening infection with chance of airway compromise. Case was 
discussed with ___ Control prior to discharge who, due to 
her low risk of pulmonary TB, concurred that she could willingly 
leave and recommended close follow up, wearing a mask in public, 
and avoidance of immunocompromised individuals until further 
work up performed (ie FNA aspiration and results of her one 
submitted sputum AFB with MTB). Per discussion with ID, given 
her clinical stability (resolution of fever and report 
significant decrease in submandibular swelling) work up as an 
outpatient could even be considered. An OMR order was placed for 
outpatient FNA and the ID team will be reaching out to the 
patient to coordinate close follow up. Prior to discharge the 
patient and her husband were extensively counseled on the 
aforementioned precautions as well as danger signs that should 
prompt immediate re-evaluation. She was not discharged on any 
antibiotics. Rifampin on HOLD pending further workup as to avoid 
mono therapy in the event of active TB adenitis.  

# LTBI: 
On rifampin x 1mo. HOLDING on discharge as per above. 

# Iron-deficiency anemia: 
Due to menorrhagia. Continued home iron on discharge

# Elevated Transaminases: 
Mild and without synthetic dysfunction. Patient without stigmata 
of chronic liver disease. Suspect due to medication effect from 
rifampin. Hepatitis B immune. HCV and HIV negative. 

TRANSITIONAL ISSUES: 
====================
[] order placed for submandibular FNA by ___ the team is aware 
and will attempt to coordinate procedure early this coming week. 

[] If FNA inconclusive, would recommend ENT eval for excisional 
biopsy.
[] HOLD rifampin until further workup of TB adenitis. 
[] Patient should wear mask in public and avoid contact with 
immunocompromised individuals. 

> 30 minutes spent coordinating discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO DAILY 
2. RifAMPin 600 mg PO DAILY 
3. Azithromycin 250 mg PO Q24H 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY  
2. HELD- RifAMPin 600 mg PO DAILY  This medication was held. Do 
not restart RifAMPin until discussed with PCP after results from 
biopsy. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# lymphadenitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a privilege to care for you at the ___ 
___. You were admitted with neck swelling concerning 
for an underlying infection, possibly from tuberculosis. You 
were seen by the infectious disease doctors and ___ need to 
have an aspiration of this swelling for culture data in order to 
determine appropriate treatment. We were hoping to coordinate 
this procedure during this hospitalization, but you preferred to 
be discharged in order to attend your daughter's graduation. 

It is EXTREMELY IMPORTANT that you continue to get medical care 
to determine the cause of this swelling in order to guide 
appropriate treatment. Please see below for further 
instructions. Please also see below for a review of the "danger 
signs" that should prompt immediate re-evaluation by a medical 
professional. In the meantime, you can trial applying warm 
compresses to the swollen area approximately three times a day 
to see if this helps reduce the swelling. Last, you will need to 
wear a MASK covering your nose and mouth when out in public. 
Also, please AVOID contact with anyone with a weakened immune 
system, this includes infants and the elderly, as well as anyone 
taking steroids on other medications that affect the immune 
system. 

We wish you the best!

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___